US09062076B2
To a solution of 3,4-dimethoxybenzaldehyde (2.00 g, 12.0 mmol) in EtOH (100 mL) under nitrogen was added iodine (3.65 g, 14.4 mmol) and silver sulfate (4.49 g, 14.4 mmol) and the mixture was stirred for 3 hours at room temperature. The solvent was removed, water was added and the mixture was extracted with DCM. The organic extracts were washed with brine, dried over sodium sulfate and the solvent was removed under reduce pressure. The residue was purified by flash chromatography using petroleum ether/ethyl acetate 2:1 (v:v) as eluent to give 2-iodo-4,5-dimethoxybenzaldehyde (2.81 g, 80%). LC-MS (ES-API); rt 8.52 min; m/z calculated for C9H9IO3 [M+H]+ 293.0, found 293.0.

reactant | 3,4-dimethoxybenzaldehyde | 12.0 mmol, 2.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | iodine | 14.4 mmol, 3.65 g | II | I2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | silver sulfate | 14.4 mmol, 4.49 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-iodo-4,5-dimethoxybenzaldehyde | 2.81 g, 80% | IC1=C(C=O)C=C(C(=C1)OC)OC | C9H9IO3
